US08314147B2
Intermediate 87 Ethyl (4-{[(5-{[(3-chlorophenyl)methyl]oxy}-2-methylphenyl)carbonyl]amino}-3-methylphenyl)acetate (Intermediate 62, Amide Coupling)
Triethylamine (74 ul, 0.53 mmol, 1.5 eq) was added to a suspension of 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoylchloride (105 mgs, 0.36 mmol) and ethyl (4-amino-3-methylphenyl)acetate (103 mg, 0.53 mmol, 1.5 eq) in dichloromethane (5 ml). The mixture was stirred at room temperature overnight. The mixture was then diluted with acetonitrile and purified by SCX cartridge (5 g) eluting with acetonitrile. Fractions containing product were combined and evaporated to give the title compound as a yellow gum, 174 mg. MS (ES+) m/z 452 [M+H]+ (C26H2635ClNO4).

reactant | Triethylamine | 0.53 mmol, 74 ul, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoylchloride | 0.36 mmol, 105 mgs | ClC=1C=C(C=CC1)COC=1C=CC(=C(C(=O)Cl)C1)C | C15H12Cl2O2
reactant | ethyl (4-amino-3-methylphenyl)acetate | 0.53 mmol, 103 mg, 1.5 eq | NC1=C(C=C(C=C1)CC(=O)OCC)C | C11H15NO2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl (4-{[(5-{[(3-chlorophenyl)methyl]oxy}-2-methylphenyl)carbonyl]amino}-3-methylphenyl)acetate | ClC=1C=C(C=CC1)COC=1C=CC(=C(C1)C(=O)NC1=C(C=C(C=C1)CC(=O)OCC)C)C | C26H26ClNO4
